US05834501
5-{4-(3,7-Dimethylimidazo[5,4-b]pyridin-2-ylmethoxy)-benzyl}thiazolidine-2,4-dione (Compound No. 1-124)
A procedure similar to that described in Example 12 was repeated, except that 1.07 g of 5-{4-(3,7-dimethylimidazo[5,4-b]pyridin-2-ylmethoxy)benzyl}-3-triphenylmethylthiazolidine-2,4-dione (prepared as described in Preparation 41) and 16 ml of a 3:1 by volume mixture of acetic acid and water were used, to give the title compound as a crude product. This crude product was purified by column chromatography through silica gel, using a gradient elution method, with mixtures of hexane and ethyl acetate in ratios ranging from 1:1 to 1:2 by volume as the eluent. The product was crystallized by trituration with ethyl acetate, to give 0.28 g of the title compound, melting at 205°-207° C.

reactant | 5-{4-(3,7-dimethylimidazo[5,4-b]pyridin-2-ylmethoxy)benzyl}-3-triphenylmethylthiazolidine-2,4-dione | 1.07 g | CN1C(=NC=2C1=NC=CC2C)COC2=CC=C(CC1C(N(C(S1)=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C=C2 | C38H32N4O3S
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 5-{4-(3,7-Dimethylimidazo[5,4-b]pyridin-2-ylmethoxy)-benzyl}thiazolidine-2,4-dione | CN1C(=NC=2C1=NC=CC2C)COC2=CC=C(CC1C(NC(S1)=O)=O)C=C2 | C19H18N4O3S
